US09029391B2
7-Benzyloxy-3-hydroxymethyl-2-methyl-4-(5-methyl-chroman-6-yl)-2H-isoquinolin-1-one
The mixture of 7-Benzyloxy-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-(5-methyl-chroman-6-yl)-isochromen-1-one (5.0 g, 9.21 mmol) and CH3NH2/EtOH (10 mL) was stirred at 80° C. for 1 hour. The solvent was removed in vacuo and the resulting mixture was acidified by HCl-EA solution to pH 1-2. The mixture was diluted with water and extracted with EA (3*100 mL) and dried over sodium sulfate and concentrated to dryness. The residue was purified by chromatography column on silica gel to afford title product (3.5 g, 86%).

reactant | 7-Benzyloxy-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-(5-methyl-chroman-6-yl)-isochromen-1-one | 9.21 mmol, 5.0 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(OC(C2=C1)=O)C(O[SiH2]C(C)(C)C)(C)C)C=1C(=C2CCCOC2=CC1)C | C33H38O5Si
reactant | CH3NH2 EtOH | 10 mL | CN.CCO
product | 7-Benzyloxy-3-hydroxymethyl-2-methyl-4-(5-methyl-chroman-6-yl)-2H-isoquinolin-1-one | 3.5 g, 86% | C(C1=CC=CC=C1)OC1=CC=C2C(=C(N(C(C2=C1)=O)C)CO)C=1C(=C2CCCOC2=CC1)C | C28H27NO4
